US07838675B2
i) methyl 5-[(ter-butylamino)sulfonyl]-2-furoate
To a solution of methyl 5-(chlorosulfonyl)-2-furoate (3.0 g) in DCM (100 mL) was added tert-butylamine (3.6 mL). After stirring at room temperature for 2 days the mixture was filtered through a pad of celite, washing with DCM (2×10 mL). The filtrate was evaporated to dryness in vacuo. The resulting crude residue was purified by column chromatography using EtOAc/isohexane (2:8) as eluent to give the subtitle compound as a foam Yield: 2.75 g.

reactant | methyl 5-(chlorosulfonyl)-2-furoate | 3.0 g | ClS(=O)(=O)C1=CC=C(O1)C(=O)OC | C6H5ClO5S
reactant | tert-butylamine | 3.6 mL | C(C)(C)(C)N | C4H11N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-[(ter-butylamino)sulfonyl]-2-furoate | Yield: 2.75 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C(O1)C(=O)OC | C10H15NO5S
